US06353006B1
2-Hydroxyethylamine was reacted with cycloheptyl bromide according to Method B2a to give N-cycloheptyl-N-(2-hydroxyethyl)amine. The alcohol was reacted with SOCl2 according to Method B7c to give N-cycloheptyl-N-(2-chloroethyl)ammonium chloride. The chloroethylamine was reacted with 2-methyl-4-nitrophenyl isothiocyanate to give 2-(2-methyl-4-nitrophenylimino)-3-cycloheptyl-1,3-thiazolidine.

reactant | 2-Hydroxyethylamine | OCCN | C2H7NO
reactant | cycloheptyl bromide | C1(CCCCCC1)Br | C7H13Br
product | N-cycloheptyl-N-(2-hydroxyethyl)amine | C1(CCCCCC1)NCCO | C9H19NO
